US04767764
To a solution of 2.06 g of 35% potassium hydride in oil, prewashed with hexane, in 15 mL of tetrahydrofuran was added 0.70 g of 3-cyclopropylmethyl-5-hydroxymethyl-9-methoxy-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one (synthesized by following the procedures of Example 1, Method A, using 3-cyclopropylmethyl-9-methoxy-5-methoxycarbonyl-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one, U.S. Pat. No. 4,477,456, as the starting material) and the mixture was heated under reflux for 30 min. Cinnamyl bromide (2 mL) was added to the cooled mixture which was then heated under reflux for 20 minutes. Water and methylene chloride were added, and the aqueous layer was extracted with methylene chloride. Removal of the solvent from the dried organic phases gave 0.84 of 5-cinnamyloxymethyl-3-cyclopropylmethyl-9-methoxy-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one. NMR spectrum (δ in CDCl3): 7.1-7.4 (m, 5H); 6.8 (m, 2H); 6.7 (m, 1H); 6.6 (d, J=15 Hz, 1H); 6.3 (d/t, J=15/7 Hz, 1H), 4.4 (s, 1H); 5.8 (m, 2H); 3.9 (s, 3H); 0.5 (m, 2H); and 0.2 (m, 2H), among others.

reactant | potassium hydride | 2.06 g | [H-].[K+]
reactant | 3-cyclopropylmethyl-5-hydroxymethyl-9-methoxy-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one | 0.70 g | C1(CC1)CN1C(C23C(CC(C4C2(CC1)C1=C(O4)C(=CC=C1)OC)CC3)CO)=O | C23H29NO4
reactant | 3-cyclopropylmethyl-9-methoxy-5-methoxycarbonyl-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one | C1(CC1)CN1C(C23C(CC(C4C2(CC1)C1=C(O4)C(=CC=C1)OC)CC3)C(=O)OC)=O | C24H29NO5
reactant | Cinnamyl bromide | 2 mL | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 5-cinnamyloxymethyl-3-cyclopropylmethyl-9-methoxy-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one | C(C=CC1=CC=CC=C1)OCC1CC2C3C4(CCN(C(C14CC2)=O)CC2CC2)C2=C(O3)C(=CC=C2)OC | C32H37NO4
